US05600047
0.32 ml of 1.6M hexane solution of butyl lithium was dropwise added to a solution of 120 mg of 5-ethyl-5-methoxymethoxy-1-heptyne dissolved in 4 ml of tetrahydrofuran, at -78° C. in a nitrogen atmosphere. The reaction mixture was stirred at the same temperature for 30 minutes. Thereto was dropwise added a solution of 112 mg of 4-benzoyloxy-7a-methyl-2,3,3a,4,5,6,7,7a-octahydroinden-1-yl-ethanone dissolved in 3 ml of tetrahydrofuran. The reaction mixture was warmed to 0° C. and mixed with an aqueous ammonium chloride solution. The mixture was subjected to extraction with diethyl ether. The extract was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 97 mg of 2-(4-benzoyloxy-7a-methyl-2,3,3a,4,5,6,7,7a-octahydroinden-1-yl)-7-ethyl-7-methoxymethoxy-3-nonyn-2-ol having the following properties.

reactant | butyl lithium | C(CCC)[Li]
reactant | 5-ethyl-5-methoxymethoxy-1-heptyne | 120 mg | C(C)C(CCC#C)(CC)OCOC | C11H20O2
reactant | 4-benzoyloxy-7a-methyl-2,3,3a,4,5,6,7,7a-octahydroinden-1-yl-ethanone | 112 mg | C(C1=CC=CC=C1)(=O)OC1C2CCC(C2(CCC1)C)C(C)=O | C19H24O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M, 0.32 ml | CCCCCC | C6H14
product | 2-(4-benzoyloxy-7a-methyl-2,3,3a,4,5,6,7,7a-octahydroinden-1-yl)-7-ethyl-7-methoxymethoxy-3-nonyn-2-ol | 97 mg | C(C1=CC=CC=C1)(=O)OC1C2CCC(C2(CCC1)C)C(C)(C#CCCC(CC)(OCOC)CC)O | C30H44O5
